US05508293
N-cyano-N'-[2-(2-chlorophenyl)ethyl]-5-isopropylamino-3-pyridinecarboximidamide
To a solution of propyl N-cyano-5-isopropylamino-3-pyridinecarboximidate (98 mg, 0.42 mmol) in methanol (3 ml) was added 2-(2-chlorophenyl)ethylamine (79 mg, 0.51 mmol), and the mixture was stirred for 105 minutes. After the reaction was completed, the reaction mixture was concentrated under reduced pressure and the residue obtained was purified by silica gel column chromatography (Wako Gel C-200, 30 g; eluted with chloroform:methanol=100:1) and further crystallized from diethyl ether to give the title compound (110 mg, 0.34 mmol) as colorless crystals in the yield of 80%.

reactant | propyl N-cyano-5-isopropylamino-3-pyridinecarboximidate | 0.42 mmol, 98 mg | C(#N)N=C(OCCC)C=1C=NC=C(C1)NC(C)C | C13H18N4O
reactant | 2-(2-chlorophenyl)ethylamine | 0.51 mmol, 79 mg | ClC1=C(C=CC=C1)CCN | C8H10ClN
solvent | methanol | 3 ml | CO | CH4O
product | N-cyano-N'-[2-(2-chlorophenyl)ethyl]-5-isopropylamino-3-pyridinecarboximidamide | 0.34 mmol, 110 mg, yield of 80% | C(#N)NC(=NCCC1=C(C=CC=C1)Cl)C=1C=NC=C(C1)NC(C)C | C18H20ClN5
